US03994910
Equimolar combination of 1,2-diphenyl-3,5-dioxo-4-n-butylpyrazolidine-2-amino-4-methyl-pyridine
30.8 g (0.1 mol) of 1,2-diphenyl-3,5-dioxo-4-n-butyl-pyrazolidine are introduced with agitation into a 500 cc flask and mixed with 150 ml of acetone until complete dissolution. 10.8 g (0.1 mol) of 2-amino-4-methylpyridine which have previously been dissolved in 100 cc of acetone are then added and the mixture is boiled for 30 minutes. It is filtered cold, and 39 g of a product having a melting point of 121°-2° C are crystallized out.

reactant | 1,2-diphenyl-3,5-dioxo-4-n-butyl-pyrazolidine | 0.1 mol, 30.8 g | C1(=CC=CC=C1)N1N(C(C(C1=O)CCCC)=O)C1=CC=CC=C1 | C19H20N2O2
reactant | 2-amino-4-methylpyridine | 0.1 mol, 10.8 g | NC1=NC=CC(=C1)C | C6H8N2
solvent | acetone | 100 cc | CC(=O)C | C3H6O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 1,2-diphenyl-3,5-dioxo-4-n-butylpyrazolidine 2-amino-4-methyl-pyridine | C1(=CC=CC=C1)N1N(C(C(C1=O)CCCC)=O)C1=CC=CC=C1.NC1=NC=CC(=C1)C | InChI=1S/C19H20N2O2.C6H8N2/c1-2-3-14-17-18(22)20(15-10-6-4-7-11-15)21(19(17)23)16-12-8-5-9-13-16;1-5-2-3-8-6(7)4-5/h4-13,17H,2-3,14H2,1H3;2-4H,1H3,(H2,7,8)
